US07291631B2
Using General Procedure B: Reaction of (4-Amino-butyl)-methyl-carbamic acid tert-butyl ester and 3,5-dimethyl-pyridine-2-carbaldehyde with NaBH(OAc)3 in CH2Cl2 gave {4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-amino]-butyl}-methyl-carbamic acid tert-butyl ester as a colorless oil.

reactant | (4-Amino-butyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCCCN)=O | C10H22N2O2
reactant | 3,5-dimethyl-pyridine-2-carbaldehyde | CC=1C(=NC=C(C1)C)C=O | C8H9NO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-amino]-butyl}-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCCCNCC1=NC=C(C=C1C)C)=O | C18H31N3O2
